US06184324B2
Preparation of 2-(Methylsulfonyl)ethyl acrylate
Fifty grams 2-(methylsulfonyl)ethanol, 500 mg BHT, 25.61 g sodium carbonate, 0.5 mL pyridine, and 200 mL toluene were combined in a dry 500 mL 3-neck round bottom flask. The flask was outfitted with a mechanical stirrer, a disposable pipet to act as a sparge tube, and addition funnel. Oxygen was bubbled into the solution via the pipet for 30 minutes, and then slowed to a bubble every few seconds. The flask was cooled in an ice-water bath and the pipet pulled out to bring the tip above the solution surface. Fifty ml toluene and 40.1 g acryloyl chloride was added to the addition funnel. The acryloyl chloride solution was added dropwise over 90 minutes. The reaction was stirred at room temperature for two hours, and then heated to 50° C. for one hour. IR(neat): 3107, 3013, 2964, 2933, 1725, 1635, 1461, 1408, 1295, 1186, 1130, 1073, 984, 965, 809, 665, 482,451 cm−1. 1H NMR (300 Mhz, CDCl3): δ6.40 (d), 6.10 (dd), 5.90 (d), 4.55 (t), 3.35 (t), 2.95 (s). 13C NMR (75.6 Mhz, CDCl3): δ165, 132, 127, 58, 53, 43.

reactant | 2-(methylsulfonyl)ethanol | Fifty grams | CS(=O)(=O)CCO | C3H8O3S
reactant | sodium carbonate | 25.61 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Methylsulfonyl)ethyl acrylate | C(C=C)(=O)OCCS(=O)(=O)C | C6H10O4S
